US07700641B2
Synthesis of 1′-(diphenylmethyl)-5-pyridin-3-ylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 4.2, and making non-critical variations using 5-bromo-1′-(diphenylmethyl)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one to replace 2-(4′-bromo-5,6-difluoro-2′-oxospiro[1-benzofuran-3,3′-indol]-1′(2′H)-yl)-N-(2-fluorophenyl)acetamide, and pyridin-3-ylboronic acid to replace pyrimidine-5-boronic acid, the title compound was obtained (74%) as a white solid: mp 204-207° C.; 1H NMR (300 MHz, CDCl3) δ 8.62-8.46 (m, 2H), 7.62 (d, 1H), 7.43-7.26 (m, 11H), 7.16 (dd, 1H), 7.03-6.94 (m, 4H), 6.76 ((d, 1H), 6.54 (d, 1H), 5.09 (d, 1H), 4.82 (d, 1H); MS (ES+) m/z 481.5 (M+1).

reactant | 5-bromo-1′-(diphenylmethyl)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | BrC=1C=CC2=C(C1)C1(C(N(C3=CC=CC=C13)C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CO2 | C28H20BrNO2
reactant | 2-(4′-bromo-5,6-difluoro-2′-oxospiro[1-benzofuran-3,3′-indol]-1′(2′H)-yl)-N-(2-fluorophenyl)acetamide | BrC1=C2C3(C(N(C2=CC=C1)CC(=O)NC1=C(C=CC=C1)F)=O)COC1=C3C=C(C(=C1)F)F | C23H14BrF3N2O3
reactant | pyridin-3-ylboronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | pyrimidine-5-boronic acid | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
product | 1′-(diphenylmethyl)-5-pyridin-3-ylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | C1(=CC=CC=C1)C(N1C(C2(C3=CC=CC=C13)COC1=C2C=C(C=C1)C=1C=NC=CC1)=O)C1=CC=CC=C1 | C33H24N2O2
